US04868202
A suspension of 35.0 g of 2,3-dichlorobenzaldehyde, 41.2 g of 1,1,1-trichloro-2,2,2-trifluoroethane and 16.4 g of zinc powder in 360 ml of DMF is stirred for 66 h at RT, and subsequently taken up in a mixture of 600 ml of 10% hydrochloric acid and 600 g of ice. By extraction with ether, drying, and concentration of the organic extracts by evaporation, there is obtained (2,2-dichloro-3,3,3-trifluoro-1-hydroxypropyl)-2,3-dichlorobenzene in the form of a yellow oil (compound No. 5.10).

reactant | 2,3-dichlorobenzaldehyde | 35.0 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 1,1,1-trichloro-2,2,2-trifluoroethane | 41.2 g | ClC(C(F)(F)F)(Cl)Cl | C2Cl3F3
solvent | DMF | 360 ml | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | 600 ml | Cl | ClH
catalyst | zinc | 16.4 g | [Zn] | Zn
product | (2,2-dichloro-3,3,3-trifluoro-1-hydroxypropyl)-2,3-dichlorobenzene | ClC(C(O)C1=C(C(=CC=C1)Cl)Cl)(C(F)(F)F)Cl | C9H5Cl4F3O
